US08071807B2
Step 1: [3-(4-Chloro-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester
(3-Hydroxy-4-methoxy-phenyl)-acetic acid ethyl ester (0.75 g, 4.8 mmol), 5-chloro-2-fluorobenzaldehyde (1.0 g, 4.8 mmol), and potassium carbonate (1.0 g, 7.5 mmol) were combined in 1,4-dioxane (30 mL) and heated to 100° C. for 3 days. After work-up, the crude material was purified by silica gel chromatography (0-20% EtOAc in hexanes) to give the title compound.

reactant | (3-Hydroxy-4-methoxy-phenyl)-acetic acid ethyl ester | 4.8 mmol, 0.75 g | C(C)OC(CC1=CC(=C(C=C1)OC)O)=O | C11H14O4
reactant | 5-chloro-2-fluorobenzaldehyde | 4.8 mmol, 1.0 g | ClC=1C=CC(=C(C=O)C1)F | C7H4ClFO
reactant | potassium carbonate | 7.5 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | [3-(4-Chloro-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Cl)C=O)=O | C18H17ClO5
